US06878728B1
(3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-4-[4-(benzyloxy)benzyl]5-({isobutyl[(4-nitrophenyl)sulfonyl]amino}methyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate
To a solution of (3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-{isobutyl[(4-nitrophenyl)sulfonyl]amino}propylcarbamate (1.00 g, 1.5 mmol) in 20 mL of dichloromethane was added 2,2-dimethoxypropane (1.5 g, 14.6 mmol) and p-toluenesulfonic acid (0.09 g, 0.5 mmol). The solution was refluxed for 12 hours, and the solvent was removed under reduced pressure. The residue was purified on silica gel using ethyl acetate-hexanes (3.5:6.5) as eluent to provide 0.70 g (70%) of the title compound. 1H-NMR (CDCl3): δ 0.85 (3H,d), 0.90 (3H,d), 1.35,1.44 (3H,s)*,1.55,1.61 (3H,s)*, 1.84-2.00 (3H,m,b), 2.61-2.91 (4H,m), 2.91-3.08 (3H,m), 3.17,3.33 (1H,d)*, 3.56 (1H,t), 3.80-3.86 (2H,m), 3.91-3.98(1H,m), 4.23-4.27 (2H, m), 5.02-5.16 (2H,s), 5.67 (1H,d), 6.91 (2H,d), 7.03 (1H,d), 7.14 (1H,d), 7.31 (1H,d), 7.38 (2H,m), 7.45 (2H,d), 7.67 (2H,d), 8.25 (2H,d).

reactant | (3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-{isobutyl[(4-nitrophenyl)sulfonyl]amino}propylcarbamate | 1.5 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(C[C@@H]([C@@H](CN(S(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])CC(C)C)O)NC(O[C@@H]2CO[C@H]3OCC[C@H]32)=O)C=C1 | C34H41N3O10S
reactant | 2,2-dimethoxypropane | 14.6 mmol, 1.5 g | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | 0.5 mmol, 0.09 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-4-[4-(benzyloxy)benzyl]5-({isobutyl[(4-nitrophenyl)sulfonyl]amino}methyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 0.70 g, 70% | C(C1=CC=CC=C1)OC1=CC=C(C[C@@H]2N(C(O[C@@H]2CN(S(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])CC(C)C)(C)C)C(=O)O[C@@H]2CO[C@H]3OCC[C@H]32)C=C1 | C37H45N3O10S
